US07329755B2
N-[4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalen-1-yl]-2-methyl-nicotinamide (D-25)
The title compound was prepared following the general procedure in Scheme 5, beginning with 4-[(2-methyl-pyridine-3-carbonyl)-amino]-naphthalene-1-sulfonyl chloride, and substituting butyryl chloride and triethylamine for 2-isocyanato-propane. 1H NMR (300 MHz, DMSO) δ 10.76 (s, 1H), 8.68 (d, 1H), 8.59 (d, 1H), 8.31 (d, 1H), 8.24 (d, 1H), 8.10 (d, 1H), 8.04 (d, 1H), 7.98 (d, 1H), 7.73 (m, 2H), 7.41 (m, 1H), 4.00 (d, 1H), 3.61 (d, 1H), 3.23 (m, 1H), 2.93 (t, 1H), 2.66 (s, 3H), 2.59 (m, 1H), 2.17 (t, 2H), 1.48 (m, 2H), 1.43 (m, 2H), 1.19 (m, 2H), 0.82 (m, 2H). LC/MS m/z 494 (M−H)−, 496 (M+H)+.

reactant | 4-[(2-methyl-pyridine-3-carbonyl)-amino]-naphthalene-1-sulfonyl chloride | CC1=NC=CC=C1C(=O)NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C17H13ClN2O3S
reactant | 2-isocyanato-propane | N(=C=O)C(C)C | C4H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalen-1-yl]-2-methyl-nicotinamide | C(CCC)(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=C(N=CC=C1)C)=O | C26H30N4O4S
